datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:29]([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][C:29]([H:30])([H:31])[H:32],29.928152
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([H:22])([H:23])[H:24])([C:15]([O:16][O:17])([H:25])[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:17][O:16][C:15]([C:13]([C:12]([H:18])([H:19])[H:20])([C:14]([H:22])([H:23])[H:24])[H:21])([H:25])[H:26],62.3416
[C:0]([C:1]([C:2]([O:3][O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([O:3][O:4][H:5])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7],87.9477
[H:5].[O:0]=[C:1]([O:2][H:4])[H:3]>>[H:3][H:5].[O:0]=[C:1][O:2][H:4],20.325872
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[S:7][H:14])([H:8])([H:9])[H:10]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:8])([H:9])[H:10])([C:6]([H:11])([H:12])[H:13])[S:7][H:14],83.3453
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[H:15])([H:12])([H:13])[H:14]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:12])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14],85.60464
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29])[H:12])[H:11],43.681
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11],131.461
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:15])[H:19])([H:13])[H:14])([H:10])([H:11])[H:12],95.8136
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](#[C:11][C:12]=[C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11]#[C:10][H:14])=[C:13]([H:15])[H:16],17.1544
[O:0]=[C:1][O:2][C:3]([O:4][H:7])([H:5])[H:6]>>[C:3]([O:4][H:7])([H:5])[H:6].[O:0]=[C:1]=[O:2],86.9096296
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[C:20]([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[H:9][C:20]([H:21])([H:22])[H:23],22.92832
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[S:9]=[C:10]([S:11][H:13])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:12])[H:4].[S:9]=[C:10][S:11][H:13],127.779
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([H:14])([H:15])[H:16])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:11])[H:6])([H:4])[H:5].[C:9]([C:10]([H:14])([H:15])[H:16])([H:12])[H:13],94.5584
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6][H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:19][O:20][H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:18][O:19][O:20][H:21],41.84
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([S:16][H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:17])[H:8])([H:6])[H:7].[C:15]([S:16][H:20])([H:18])[H:19],94.9768
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](#[C:7][C:8]([S:9][H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7]#[C:6][H:10])([S:9][H:12])[H:11],172.799
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[O:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:24][O:27],11.572944
